US07514566B2
To a solution of tert-butyl (S)-1-(5-(3-cyano-4-fluorophenyl)thiazol-2-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (0.18 g, 0.35 mmol) in 7 mL of DCM was added TFA (0.40 mL, 5.2 mmol). After 30 minutes, 2 mL of additional TFA was added. The mixture was stirred for 30 minutes and was then concentrated under reduced pressure. The residue was taken up in 30 mL of 1:1 EtOAc to 2 N aqueous Na2CO3. The mixture was partitioned in a separatory funnel, and the aqueous portion was extracted with 25 mL of EtOAc. The combined organic extracts were washed with brine and dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (2.5% to 10% MeOH/DCM) afforded 5-(2-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)thiazol-5-yl)-2-fluorobenzonitrile (0.14 g, 0.33 mmol, 96% yield) as a yellow solid. 1H NMR (400 MHz, CD3OD) δ ppm 7.83 (dd, J=5.8, 2.4 Hz, 1H), 7.76 (ddd, J=8.7, 5.0, 2.4 Hz, 1H), 7.68 (d, J=8.2 Hz, 2H), 7.52 (d, J=7.8 Hz, 2H), 7.48 (s, 1H), 7.35 (t, J=9.0 Hz, 1H), 3.84-3.78 (m, 1H), 3.68-3.63 (m, 1H), 3.55-3.47 (m, 1H), 3.14-3.04 (m, 2H) LCMS (M+H) 421 calc. for C20H19F3N4OS 420.43.

reactant | tert-butyl (S)-1-(5-(3-cyano-4-fluorophenyl)thiazol-2-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 0.35 mmol, 0.18 g | C(#N)C=1C=C(C=CC1F)C1=CN=C(S1)NC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C25H24F4N4O2S
reactant | TFA | 5.2 mmol, 0.40 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)thiazol-5-yl)-2-fluorobenzonitrile | 0.33 mmol, 0.14 g, 96% yield | N[C@H](CNC=1SC(=CN1)C=1C=CC(=C(C#N)C1)F)CC1=CC=C(C=C1)C(F)(F)F | C20H16F4N4S
